US06673797B1
(10) Preparation of 5-(4-Fluorobenzy)-2-methanesulfonyl-6-(thiazol-2-yl)-5H-pyrrolo[2,3-b]pyrazine
A mixture of 5-(4-fluorobenzyl)-2-methanesulfonyl-5H-pyrrolo[2,3-b]pyrazine-6-thioamide (90 mg), bromoacetaldehyde dimethylacetal (0.06 ml), p-toluenesulfonic acid (4 mg) and acetic acid (1 ml) was stirred at 100° C. for 1.5 hours. The reaction solution was separated using silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain the desired product (30 mg).

reactant | 5-(4-fluorobenzyl)-2-methanesulfonyl-5H-pyrrolo[2,3-b]pyrazine-6-thioamide | 90 mg | FC1=CC=C(CN2C(=CC=3C2=NC=C(N3)S(=O)(=O)C)C(N)=S)C=C1 | C15H13FN4O2S2
reactant | bromoacetaldehyde dimethylacetal | 0.06 ml | COC(CBr)OC | C4H9BrO2
reactant | p-toluenesulfonic acid | 4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 5-(4-Fluorobenzy)-2-methanesulfonyl-6-(thiazol-2-yl)-5H-pyrrolo[2,3-b]pyrazine | 30 mg | FC1=CC=C(CN2C(=CC=3C2=NC=C(N3)S(=O)(=O)C)C=3SC=CN3)C=C1 | C17H13FN4O2S2
